US07323455B2
1-Methyl-5-(2-oxo-5,5-dithien-2-yl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-2-carbonitrile
Prepared from 5-(2-oxo-5,5-dithien-2-yl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-2-carbonitrile and iodomethane generally according to the procedure of example 3. 1H-NMR (DMSO-d6) δ 10.33 (s, 1H), 7.63 (dd, J=5.0, 1.1 Hz, 2H), 7.50 (dd, J=8.3, 2.1 Hz, 1H), 7.29 (d, J=8.4 Hz, 1H), 7.03 (m, 4H), 6.89 (dd, J=3.6, 1.1 Hz, 2H), 6.18 (d, J=4.0 Hz, 1H), 4.25 (s, 2H), 3.49 (s, 3H); MS (ES) m/z 432 (M+H)+.

reactant | 5-(2-oxo-5,5-dithien-2-yl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-2-carbonitrile | O=C1NC2=C(C(OC1)(C=1SC=CC1)C=1SC=CC1)C=C(C=C2)C2=CC=C(N2)C#N | C22H15N3O2S2
reactant | iodomethane | IC | CH3I
product | 1-Methyl-5-(2-oxo-5,5-dithien-2-yl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-2-carbonitrile | CN1C(=CC=C1C=1C=CC2=C(C(OCC(N2)=O)(C=2SC=CC2)C=2SC=CC2)C1)C#N | C23H17N3O2S2
